US04415572
2-Nitro-5-chlorobenzaldehyde diethyl acetal (138 g) was dissolved in 750 ml of dimethylformamide (DMF) and to the solution was added 250 g of anhydrous piperazine and stirred at 80° C. for 4 hours. After removing excessive piperazine and DMF by evaporation under reduced pressure, and a dilute aqueous sodium hydroxide solution was added to the residue to dissolve. Then, the solution was extracted with methylene chloride. The methylene chloride layer was washed with water and dried over sodium sulfate followed by removal of the solvent by distillation. To the residue was added 850 ml of isopropyl alcohol to dissolve, and to the solution was added 65 ml of concentrated hydrochoric acid and heated under reflux for 1 hour. After cooling, the crystals which precipitated were collected by filtration to give 93 g of 2-nitro-5-piperazinylbenzaldehyde hydrochloride, m.p. 195°-201° C.

reactant | 2-Nitro-5-chlorobenzaldehyde diethyl acetal | 138 g | C(C)OC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])OCC | C11H14ClNO4
reactant | piperazine | 250 g | N1CCNCC1 | C4H10N2
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | 2-nitro-5-piperazinylbenzaldehyde hydrochloride | 93 g | Cl.[N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCNCC1 | InChI=1S/C11H13N3O3.ClH/c15-8-9-7-10(1-2-11(9)14(16)17)13-5-3-12-4-6-13;/h1-2,7-8,12H,3-6H2;1H
